US08470835B2
1,1-Dimethylethyl [(3R,4R)-4-({5-(aminocarbonyl)-4-[(4-methylphenyl)amino]-2-pyrimidinyl}amino)tetrahydro-2H-pyran-3-yl]carbamate (52.2 g) was added to a mixture of hydrogen chloride in isopropanol (5M, 300 ml) and ethanol (400 ml). The mixture was heated to reflux while stirring and heating continued for 24 h with vigorous stirring. The mixture was allowed to cool to room temperature, filtered, the solid washed with ethanol (100 ml) and dried in vacuo. The crude product was suspended in water (900 ml) and heated to reflux, giving a clear solution. The solution was basified with sodium hydroxide solution (2M, 300 ml) and cooled in ice. The precipitated product was collected by filtration, washed with water (2×100 ml) and the beige solid dried in the vacuum oven at 40° C. for 2 h to give 2-{[(3R,4R)-3-aminotetrahydro-2H-pyran-4-yl]amino}-4-[(4-methylphenyl)amino]-5-pyrimidinecarboxamide as beige solid (37.8 g).

reactant | 1,1-Dimethylethyl [(3R,4R)-4-({5-(aminocarbonyl)-4-[(4-methylphenyl)amino]-2-pyrimidinyl}amino)tetrahydro-2H-pyran-3-yl]carbamate | 52.2 g | NC(=O)C=1C(=NC(=NC1)N[C@H]1[C@H](COCC1)NC(OC(C)(C)C)=O)NC1=CC=C(C=C1)C | C22H30N6O4
reactant | hydrogen chloride | Cl | ClH
reactant | sodium hydroxide | 2M, 300 ml | [OH-].[Na+]
solvent | isopropanol | 5M, 300 ml | C(C)(C)O | C3H8O
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 2-{[(3R,4R)-3-aminotetrahydro-2H-pyran-4-yl]amino}-4-[(4-methylphenyl)amino]-5-pyrimidinecarboxamide | 37.8 g | N[C@H]1COCC[C@H]1NC1=NC=C(C(=N1)NC1=CC=C(C=C1)C)C(=O)N | C17H22N6O2
